US08877742B2
5-bromo-3-(pyrrolidin-1-yl)pyridazine
6-(1-pyrrolidinyl)-4-pyridazinol (D47) (35 mg, 0.212 mmol) was suspended in toluene (2 mL), followed by addition of phosphorus oxybromide (121 mg, 0.424 mmol). The reaction mixture was heated to 110° C. for 2 hours. The reaction was cooled to RT followed by addition of DMF (2.0 mL). The reaction was then heated at 110° C. again for 2 hours. Reaction mixture was allowed to cool to RT, and then poured onto crush ice portionwise with stirring. The mixture was neutralized with 5M NaOH and then extracted with ethyl acetate (3×20 mL). The combined organics were dried and concentrated down to give the title compound (40 mg) which was taken on to the next step without purification. LCMS (A): m/z (M+H)+ 228/230, C8H10BrN3 requires 227/229 (acidic).

reactant | 6-(1-pyrrolidinyl)-4-pyridazinol | 0.212 mmol, 35 mg | N1(CCCC1)C1=CC(=CN=N1)O | C8H11N3O
reactant | phosphorus oxybromide | 0.424 mmol, 121 mg | P(=O)(Br)(Br)Br | Br3OP
reactant | DMF | 2.0 mL | CN(C)C=O | C3H7NO
reactant | NaOH | 5M | [OH-].[Na+]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
product | 5-bromo-3-(pyrrolidin-1-yl)pyridazine | 40 mg | BrC=1C=C(N=NC1)N1CCCC1 | C8H10BrN3
